US04452799
8-[4-[4-(2,1-Benzisothiazol-3-yl)-1-piperazinyl]butyl]-8-azaspiro[4.5]decane-7,9-dione
Title product dihydrochloride dihydrate--A mixture of 3-(1-piperazinyl)-2,1-benzisothiazole (4.0 g., 0.018 mole) and 8-(4-bromobutyl)-8-azaspiro[4.5]decane-7,9-dione (5.5 g., 0.018 mole), anhydrous potassium carbonate (4.98 g., 0.036 mole) and potassium iodide (0.83 g., 0.005 mole) in 100 ml. of acetonitrile is stirred at reflux temperature for a period of 20 hr. The reaction mixture is filtered, concentrated in vacuo and residual material triturated with ether to afford 7.38 g., (93% yield) of the title product free base. Conversion of the free base to the hydrochloride salt in ethanol with ethanolic hydrogen chloride and crystallization from ethanol affords 5.34 g. (57% yield) of analytically pure 8-[4-[4-(2,1-benzisothiazol-3-yl)-1-piperazinyl]butyl]-8-azaspiro[4.5]decane-7,9-dione dihydrochloride hemihydrate, m.p. 225°-227° C. (dec.).

reactant | dihydrochloride dihydrate | O.O.Cl.Cl
reactant | 3-(1-piperazinyl)-2,1-benzisothiazole | 0.018 mole, 4.0 g | N1(CCNCC1)C=1SN=C2C1C=CC=C2 | C11H13N3S
reactant | 8-(4-bromobutyl)-8-azaspiro[4.5]decane-7,9-dione | 0.018 mole, 5.5 g | BrCCCCN1C(CC2(CCCC2)CC1=O)=O | C13H20BrNO2
reactant | potassium carbonate | 0.036 mole, 4.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.005 mole, 0.83 g | [I-].[K+]
product | 8-[4-[4-(2,1-Benzisothiazol-3-yl)-1-piperazinyl]butyl]-8-azaspiro[4.5]decane-7,9-dione | N=1SC(=C2C1C=CC=C2)N2CCN(CC2)CCCCN2C(CC1(CCCC1)CC2=O)=O | C24H32N4O2S
